US05132310
rac-2,2,2-Trifluoro-N-{2-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]phenyl}acetamide.
Trifluoroacetic acid anhydride, 0.4 ml, was added to a solution of 0.3 g of rac-2-[(2-aminophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol in 25 ml of methylene chloride. The mixture was layered with 10 ml of 10% aqueous sodium carbonate solution and was stirred for 30 minutes at room temperature. The organic layer was separated, dried and evaporated. The residue was dissolved in hexane/ether, filtered and crystallized by cooling. The colorless crystals obtained had m.p. 116°-118°.

reactant | Trifluoroacetic acid anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | rac-2-[(2-aminophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 0.3 g | NC1=C(C=CC=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C21H23NO2
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | rac-2,2,2-Trifluoro-N-{2-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]phenyl}acetamide | FC(C(=O)NC1=C(C=CC=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)(F)F | C23H22F3NO3
